US05847214
Synthesis of fluoxetine hydrochloride.
30 g of 1-phenyl-3-(N-methylamine)propane-1-ol and 150 ml of N-methyl-pyrrolidone are added in a 0.5 l flask under nitrogen atmosphere. When the solution has completely turned to yellow, 28.2 g of KOH 90.4% are added and a moderate exothermia is observed. Then, n-exane is added in an amount sufficient to have reflux at a temperature of 90° C. The inner temperature is raised at 90° C. under constant and azeothropic reflux, optionally by varying the amount of n-exane and in 1 hour 42.6 g of 1-chloro-4-trifluoromethylbenzene is added dropwise. It is observed that the flakes of potassium hydroxide dissolve completely, while a microcrystalline precipitate of KCl is obtained. The solution slowly turns to brown-orange. Stirring is continued for ten hours, while simultaneously monitoring the reaction by TLC. Initially, the reaction seems to be slightly exotermic. After 10 hours the control by TLC does not show traces of non reacted product. The temperature is then brought below 60° C. and 20,5 g of acetic acid 80% is carefully added. Vacuum is then slowly made and a mixture of solvents is distilled off until a temperature of 100° C. is reached at a residual pressure of 16 mm Hg. 22 ml of head (mainly n-exane) and 113 g of high boiling solvents (mainly N-methyl-pirrolidone) are thus recoverd. The temperature is then reduced to 0° C. and 240 ml of toluene is added to dilute. 100 ml of water is then slowly added dropwise in about 30 minutes under cooling. The aqueous phase containing salts, part of the reaction solvent and the non-reacted product of reaction is set aside; the organic phase is subjected to four washings with 100 ml of water. Then, 180 ml of water at ambient temperature are added to the toluenic phase and then about 16 ml of HCl 37% are slowly added dropwise at constant pH 3 (at this pH value fluoxetine is stable in these conditions). During acidification, the precipitation of the hydrochloride is observed. Temperature is then kept at 20° C. for 15 minutes till pH stabilization at the value of 3 (optionally by further adding HCl 37%). Temperature is then reduced to 0° C. and stirring is conducted at this temperature for at least two hours. A very pure crystalline product is obtained, which is quickly filtered, leaving in the mother liquor almost all the colour. The product is filtered off at 0° C. and then washed with 10 ml×3 of water at 0° C. and pH 7, then with 20 ml×4 of toluene.

reactant | N-methyl-pyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
reactant | KOH | 28.2 g | [OH-].[K+]
reactant | 1-chloro-4-trifluoromethylbenzene | 42.6 g | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | KCl | [Cl-].[K+]
solvent | acetic acid | 20,5 g | C(C)(=O)O | C2H4O2
product | fluoxetine hydrochloride | CNCCC(C=1C=CC=CC1)OC=2C=CC(=CC2)C(F)(F)F.Cl | InChI=1S/C17H18F3NO.ClH/c1-21-12-11-16(13-5-3-2-4-6-13)22-15-9-7-14(8-10-15)17(18,19)20;/h2-10,16,21H,11-12H2,1H3;1H
